US07071158B2
C. N-Acetyl Cysteine and its Derivatives
Cysteine is an amino acid with one chiral carbon atom. It exists as an L-enantiomer, a D-enantiomer or a racemic mixture of the L- and D-enantiomers. The L-enantiomer is the naturally occurring configuration.

reactant | Cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | L-enantiomer | CC1(OC[C@@]2(O1)C(=O)[C@@H]3[C@H](CO2)OC(O3)(C)C)C | C12H18O6
product | N-Acetyl Cysteine | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
